US07323475B2
h) 2-(S)-{[4-Hydroxy-7-(4-methoxy-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid
Prepared in analogy to Example A-63 g) from 7-(4-methoxy-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (of Example of A-66 a) and L-alanine. MS-(−)-ion: M−1=381.13.

reactant | 7-(4-methoxy-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC=C(C=C1)OC | C21H21NO5
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | 2-(S)-{[4-Hydroxy-7-(4-methoxy-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid | OC1=C(N=CC2=CC(=CC=C12)OC1=CC=C(C=C1)OC)C(=O)N[C@H](C(=O)O)C | C20H18N2O6
